US08003811B2
Step B: (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diol
To (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diyl dibenzoate (6.30 g, 17.8 mmol), a mix of NaOH 10%:MeOH=1:1 (60 ml) was added. After stirring at room temperature for 24 hrs, the solvent was evaporated under reduced pressure. Water (30 ml) was added and extraction with EtOAc (30 ml) was carried out. The aqueous layer (pH adjusted to 6 with H3PO4 5%) was evaporated under reduced pressure to leave a white residue. Tetrahydrofuran was added in a large amount, then the suspension was filtered and the filtrate was concentrated to give the title product as a white solid.

reactant | (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diyl dibenzoate | 17.8 mmol, 6.30 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]2[C@H](OC1)[C@H](CO2)OC(C2=CC=CC=C2)=O | C20H18O6
reactant | NaOH | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diol | O1[C@H]2[C@@H]([C@H](C1)O)OC[C@@H]2O | C6H10O4
